US05763437
To a solution of (3RS)-1-(2-acetoxyethyl)-3-tert-butoxycarbonylamino-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one (0.83 g) in 85 % aqueous ethanol (20 ml) was added potassium carbonate (0.19 g). The mixture was warmed at 65°-70° C. under stirring for 3 hours. Ethanol was removed in vacuo from the reaction mixture and to the aqueous residue was added water (50 ml). The resultant precipitate was collected by filtration, washed with water and dried under reduced pressure to afford (3RS)-1-(2-hydroxylethyl)-3-tert-butoxycarbonylamino-5-(2-fluorophenyl)-2, 3-dihydro-1H-1,4-benzodiazepin-2-one (0.75 g) as a white crystalline powder, which was used in a following reaction step without further purification.

reactant | (3RS)-1-(2-acetoxyethyl)-3-tert-butoxycarbonylamino-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 0.83 g | C(C)(=O)OCCN1C(C(N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)OC(C)(C)C)=O | C24H26FN3O5
reactant | potassium carbonate | 0.19 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (3RS)-1-(2-hydroxylethyl)-3-tert-butoxycarbonylamino-5-(2-fluorophenyl)-2, 3-dihydro-1H-1,4-benzodiazepin-2-one | 0.75 g | OCCN1C(C(N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)OC(C)(C)C)=O | C22H24FN3O4
